US08114886B2
2-Bromo-5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine
To a solution of 2-bromo-5-[chloro(2,5-difluorophenyl)methyl]-4-methylpyridine (6.44 g, 19.4 mmol) in N,N-dimethylformamide (100 ml), 4-fluorobenzenethiol (2.06 ml, 19.4 mmol), and then potassium carbonate (2.94 g, 21.3 mmol) were added in an argon atmosphere, at 0° C., and the mixture was stirred for 1 hour at room temperature. Ethyl acetate and water were added to the reaction mixture, the organic layer was separated, and then the organic layer was washed with saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution of hexane:ethyl acetate=30:1 was concentrated under reduced pressure, to obtain the title compound (8.20 g, 19.3 mmol, 100%) as a pale brown solid.

reactant | 2-bromo-5-[chloro(2,5-difluorophenyl)methyl]-4-methylpyridine | 19.4 mmol, 6.44 g | BrC1=NC=C(C(=C1)C)C(C1=C(C=CC(=C1)F)F)Cl | C13H9BrClF2N
reactant | 4-fluorobenzenethiol | 19.4 mmol, 2.06 ml | FC1=CC=C(C=C1)S | C6H5FS
reactant | potassium carbonate | 21.3 mmol, 2.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Bromo-5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine | 19.3 mmol, 8.20 g, 100% | BrC1=NC=C(C(=C1)C)C(SC1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C19H13BrF3NS
